US07812160B2
[4,6-bis(dimethylamino)-2-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)pyrimidin-5-yl]acetic acid
A solution of methyl [4,6-bis(dimethylamino)-2-(4-{[4-(trifluoromethyl)benzoyl]amino}-benzyl)pyrimidin-5-yl]acetate (4.34 g, 8.42 mmol) in 20% tetrahydrofuran in methanol (100 mL) was treated with 1N sodium hydroxide solution (25 mL). The resulting mixture was heated at refluxing temperature for 5 hours and then the volatiles were removed by rotary evaporation under vacuum. The remaining aqueous solution was washed with diethyl ether and then neutralized with 1N hydrochloric acid at 0° C. The separated precipitate was collected by suction and rinsed with cold water. Recrystallization from methanol then gave [4,6-bis(dimethylamino)-2-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)pyrimidin-5-yl]acetic acid (3.86 g, 81%) as colorless needles.

reactant | methyl [4,6-bis(dimethylamino)-2-(4-{[4-(trifluoromethyl)benzoyl]amino}-benzyl)pyrimidin-5-yl]acetate | 8.42 mmol, 4.34 g | CN(C1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C | C26H28F3N5O3
reactant | sodium hydroxide | 1N, 25 mL | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | [4,6-bis(dimethylamino)-2-(4-{[4-(trifluoromethyl)benzoyl]amino}benzyl)pyrimidin-5-yl]acetic acid | CN(C1=NC(=NC(=C1CC(=O)O)N(C)C)CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C | C25H26F3N5O3
